** sch_path: /foss/designs/libs/core_amps/cs_stage/prgrm_schem/programmable_common_source.sch
.subckt programmable_common_source !EN0 VSS VDD EN1 !EN1 EN0 IN OUT VG_BIAS
*.PININFO VSS:B VDD:B EN0:B !EN0:B EN1:B !EN1:B OUT:B IN:B VG_BIAS:B
x1 OUT VSS VG_BIAS VSS !EN0 VDD !EN1 EN0 EN1 VSS programmable_nfet width=27.1u length=1u nf=1 mult=1
x2 OUT VDD IN VDD !EN0 VDD !EN1 EN0 EN1 VSS programmable_pfet width=9.2u length=1u nf=1 mult=10
.ends

* expanding   symbol:  libs/core_digital/schem/programmable_nfet.sym # of pins=10
** sym_path: /foss/designs/libs/core_digital/schem/programmable_nfet.sym
** sch_path: /foss/designs/libs/core_digital/schem/programmable_nfet.sch
.subckt programmable_nfet d b g s ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS  width=0.22u length=0.28u nf=1 mult=1
*.PININFO VSS:I VDD:I g:I ena_bar<1>:I ena_bar<0>:I ena<1>:I ena<0>:I d:B s:B b:I
M1 d net2 s b nfet_03v3 L={length} W={width} nf={nf} m={mult}
M3 d net1 s b nfet_03v3 L={length} W={2*width} nf={2*nf} m={mult}
M2 net1 ena_bar<1> VSS VSS nfet_03v3 L=0.28u W=0.42u nf=1 m=1
M4 net2 ena_bar<0> VSS VSS nfet_03v3 L=0.28u W=0.42u nf=1 m=1
x1 ena_bar<0> VDD net2 g VSS ena<0> transmission_gate
x2 ena_bar<1> VDD net1 g VSS ena<1> transmission_gate
M5 d g s b nfet_03v3 L={length} W={width} nf={nf} m={mult}
.ends


* expanding   symbol:  libs/core_digital/schem/programmable_pfet.sym # of pins=10
** sym_path: /foss/designs/libs/core_digital/schem/programmable_pfet.sym
** sch_path: /foss/designs/libs/core_digital/schem/programmable_pfet.sch
.subckt programmable_pfet d b g s ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS  width=0.22u length=0.28u nf=1 mult=1
*.PININFO VSS:I VDD:I g:I ena_bar<1>:I ena_bar<0>:I ena<0>:I s:B d:B b:I ena<1>:I
M1 d net2 s b pfet_03v3 L={length} W={width} nf={nf} m={mult}
M3 d net1 s b pfet_03v3 L={length} W={2*width} nf={2*nf} m={mult}
M2 net1 ena<1> VDD VDD pfet_03v3 L=0.28u W=0.42u nf=1 m=1
M4 net2 ena<0> VDD VDD pfet_03v3 L=0.28u W=0.42u nf=1 m=1
x1 ena_bar<0> VDD net2 g VSS ena<0> transmission_gate
x2 ena_bar<1> VDD net1 g VSS ena<1> transmission_gate
M5 d g s b pfet_03v3 L={length} W={width} nf={nf} m={mult}
.ends


* expanding   symbol:  libs/core_digital/schem/transmission_gate.sym # of pins=6
** sym_path: /foss/designs/libs/core_digital/schem/transmission_gate.sym
** sch_path: /foss/designs/libs/core_digital/schem/transmission_gate.sch
.subckt transmission_gate ena_bar VDD out in VSS ena
*.PININFO in:I ena_bar:I ena:I VSS:I VDD:I out:O
M1 in ena_bar out VDD pfet_03v3 L=0.28u W=0.42u nf=1 m=1
M2 in ena out VSS nfet_03v3 L=0.28u W=0.42u nf=1 m=1
.ends

